US04014915
A solution of benzyl chloroformate (5.1 g.) in ether (40 ml.) was added to a solution of 2-hydroxyimino-2-phenylacetonitrile (4.4 g.) in a mixture of a 1N potassium hydroxide aqueous solution (30 ml.) and dioxane (10 ml.) under ice-cooling. The mixture was stirred for 1 hour at the same temperature and for 4 hours at room temperature. The ether layer was separated from the reaction mixture and the aqueous layer was further extracted with ether. Both ether layers were combined, washed with water and dried over magnesium sulfate. The solvent was distilled off and n-hexane was added to the residue. The precipitated crystals were collected by filtration to give 2-benzyloxycarbonyloxyimino2-phenylacetonitrile (5.2 g.), mp 73° to 75° C.

reactant | benzyl chloroformate | 5.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2-hydroxyimino-2-phenylacetonitrile | 4.4 g | ON=C(C#N)C1=CC=CC=C1 | C8H6N2O
reactant | potassium hydroxide | 1N, 30 ml | [OH-].[K+]
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ether | 40 ml | CCOCC | C4H10O
product | 2-benzyloxycarbonyloxyimino2-phenylacetonitrile | 5.2 g | C(C1=CC=CC=C1)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C16H12N2O3
